US07321040B2
C 2-(6-Chloro-pyridin-3-yloxy)-benzaldehyde
A mixture of 6-chloro-pyridin-3-ol (418 mg, 3.2 mmol), 2-fluorobenzaldehyde (522 mg, 4.21 mmol), potassium carbonate (442 mg, 3.2 mmol) and copper powder (201 mg, 3.2 mmol) was heated in DMF (6.4 mL) at 120° C. for 6 hours. The reaction was then cooled, and concentrated to an oil. The residue was purified by flash chromatography (eluting with 20% ethyl acetate/hexane) to give the title compound as a brown solid (700 mg, 93%).

reactant | 6-chloro-pyridin-3-ol | 3.2 mmol, 418 mg | ClC1=CC=C(C=N1)O | C5H4ClNO
reactant | 2-fluorobenzaldehyde | 4.21 mmol, 522 mg | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | potassium carbonate | 3.2 mmol, 442 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 6.4 mL | CN(C)C=O | C3H7NO
catalyst | copper | 3.2 mmol, 201 mg | [Cu] | Cu
product | 2-(6-Chloro-pyridin-3-yloxy)-benzaldehyde | 700 mg, 93% | ClC1=CC=C(C=N1)OC1=C(C=O)C=CC=C1 | C12H8ClNO2
